US04814458
Conventionally, these 4-acetyl isoquinolinone compounds have been prepared by condensing 2-acetyl-4-pyridyl cyclohexanone with cyanoacetamide to produce 4-cyano-1-methyl-7-pyridyl-5,6,7,8-tetrahydro-3(2H)-isoquinolinone and then reacting the obtained compound with a Grignard reagent such as methyl magnesium iodide and the like followed by decomposition by an acid.

reactant | 4-acetyl isoquinolinone | C(C)(=O)C1=CNC(C2=CC=CC=C12)=O | C11H9NO2
reactant | 2-acetyl-4-pyridyl cyclohexanone | C(C)(=O)C1=NC=CC(=C1)C1C(CCCC1)=O | C13H15NO2
reactant | cyanoacetamide | C(#N)CC(=O)N | C3H4N2O
product | 4-cyano-1-methyl-7-pyridyl-5,6,7,8-tetrahydro-3(2H)-isoquinolinone | C(#N)C=1C(NC(=C2CC(CCC12)C1=NC=CC=C1)C)=O | C16H15N3O
